US03959322
dl-13β-Ethyl-17β-hydroxy-7-methylgon-4-en-3-one
Add dl-13-ethyl-17β-acetoxygona-4,6-dien-3-one (2.0 g) in tetrahydrofuran (30 cc) to tetrahydrofuran (20 cc) containing 3 moles methyl magnesium bromide (16 cc) and cuprous chloride (299 mg) at 0°. Stir for 20 minutes and pour into ice-cold brine saturated with hydrogen chloride. Extract with ether and chromatograph on Grade 2.5 neutral alumina. To obtain the title compound, recrystallize from ethyl acetate-hexane (0.56 g), m.p. 152°-154°; λ max. KBr 2.98, 6.02 μ; λ max. EtOH 242 mμ (ε16,730).

reactant | 13-ethyl-17β-acetoxygona-4,6-dien-3-one | 2.0 g | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1C=C2)=O)OC(C)=O | C21H28O3
reactant | methyl magnesium bromide | 3 moles, 16 cc | C[Mg]Br
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 30 cc | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 cc | O1CCCC1 | C4H8O
product | 13β-Ethyl-17β-hydroxy-7-methylgon-4-en-3-one | C(C)[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@H]1CCC(C=C1CC2C)=O)O | C20H30O2
